US07192968B2
(1S,2S,4R)-N1-tert-Butoxycarbonyl-4-hydroxymethyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine
(1S,2S,4R)-N1-tert-Butoxycarbonyl-4-(tert-butyldiphenylsilyloxymethyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine (1.25 g) was dissolved in tetrahydrofuran (30 ml), and tetrabutylammonium fluoride (1 M solution, 2.5 ml), and the mixture was stirred at room temperature for 3 days. After the solvent was distilled off under reduced pressure, dichloromethane was added, and the reaction mixture was washed with water, the resultant organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methanol:dichloromethane=1:20-1:10) to obtain the title compound (540 mg) as a pale yellow amorphous substance.

reactant | (1S,2S,4R)-N1-tert-Butoxycarbonyl-4-(tert-butyldiphenylsilyloxymethyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | 1.25 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](C[C@@H](CC1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)C=1SC=2CN(CCC2N1)C | C36H50N4O4SSi
reactant | tetrabutylammonium fluoride | 1 M, 2.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (1S,2S,4R)-N1-tert-Butoxycarbonyl-4-hydroxymethyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | 540 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](C[C@@H](CC1)CO)NC(=O)C=1SC=2CN(CCC2N1)C | C20H32N4O4S
